US09108983B2
Step A: Methyl 4-(aminomethyl)-2-bromo-benzoate
A solution of methyl 2-bromo-4-(bromomethyl)benzoate (4.57 g; 14.84 mmol) in 50 mL of methanol is added dropwise to a well-stirred solution of ammonia in methanol (7M; 315 mL) at ambient temperature, and the solution is then stirred for 3 hours. All the solvents are evaporated off and the residue is purified by chromatography over silica gel using dichloromethane-methanol as eluants to yield the title compound.

reactant | methyl 2-bromo-4-(bromomethyl)benzoate | 14.84 mmol, 4.57 g | BrC1=C(C(=O)OC)C=CC(=C1)CBr | C9H8Br2O2
reactant | ammonia | N | H3N
solvent | methanol | 50 mL | CO | CH4O
solvent | methanol | 7M, 315 mL | CO | CH4O
product | Methyl 4-(aminomethyl)-2-bromo-benzoate | NCC1=CC(=C(C(=O)OC)C=C1)Br | C9H10BrNO2
